### PR TITLE
[Merged by Bors] - feat(Data/Finset/Card): add `exists_mem_not_mem_of_card_lt_card`

### PR DESCRIPTION
**Pull request by FordUniver**
add exists_mem_not_mem_of_card_lt_card

---

As per our [zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/If.20S.2Ecard.20.3E.20T.2Ecard.20then.20there.20is.20an.20element.20in.20S.20that.20is.20not/with/506684107)

### CODE REVIEW

File: Mathlib/Data/Finset/Card.lean [hunk 1]
```diff
@@ -523,6 +523,14 @@ lemma card_sdiff_comm (h : #s = #t) : #(s \ t) = #(t \ s) :=
   Nat.add_right_cancel (m := #t) <| by
     simp_rw [card_sdiff_add_card, ← h, card_sdiff_add_card, union_comm]
 
+theorem diff_nonempty_of_card_lt_card (h : #s < #t) : (t \ s).Nonempty := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Card.lean:526]:
```suggestion
theorem sdiff_nonempty_of_card_lt_card (h : #s < #t) : (t \ s).Nonempty := by
```

File: Mathlib/Data/Finset/Card.lean [hunk 2]
```diff
@@ -523,6 +523,14 @@ lemma card_sdiff_comm (h : #s = #t) : #(s \ t) = #(t \ s) :=
...
+  rw [nonempty_iff_ne_empty, Ne, sdiff_eq_empty_iff_subset]
+  exact fun h' ↦ h.not_le (card_le_card h')
+
+theorem exists_mem_not_mem_of_card_lt_card (h : #s < #t) :  ∃ e, e ∈ t ∧ e ∉ s := by
+  obtain ⟨e, he⟩ := diff_nonempty_of_card_lt_card h
+  exact ⟨e, mem_sdiff.mp he⟩
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Card.lean:532]:
```suggestion
  simpa [Finset.Nonempty] using sdiff_nonempty_of_card_lt_card h
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by b-mehta** [comment]
Thanks!

bors merge
